US06949650B2
Potassium acetate (0.14 g) was added to a stirred solution of 1-benzyl-4-(4-fluorophenyl)-1-azoniabicyclo[3.1.1]hept-3-ene trifluoromethanesulphonate (0.5 g) in toluene (2.5 ml) and propan-2-ol (2.5 ml). The mixture was then boiled and stirred under reflux for 24 hours. The mixture was cooled to room temperature and toluene (10 ml) and water (5 ml) were added. The organic layer was separated, dried and evaporated to leave an oil. A solution of the oil in propan-2-ol (2 ml) and toluene (2 ml) was treated with 4M-NaOH (0.4 ml). The mixture was boiled under reflux for 2 hours then cooled to room temperature. Water (5 ml) and toluene 95 ml) were added. The organic layer was separated, washed with water (2×5 ml) and evaporated to give (+,−)-1-benzyl-3-hydroxymethyl-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine (ee 5.48%).

reactant | Potassium acetate | 0.14 g | C(C)(=O)[O-].[K+]
reactant | 1-benzyl-4-(4-fluorophenyl)-1-azoniabicyclo[3.1.1]hept-3-ene trifluoromethanesulphonate | 0.5 g | FC(S(=O)(=O)[O-])(F)F.C(C1=CC=CC=C1)[N+]12CC=C(C(C1)C2)C2=CC=C(C=C2)F
reactant | water | 5 ml | O | H2O
reactant | NaOH | 0.4 ml | [OH-].[Na+]
reactant | Water | 5 ml | O | H2O
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | propan-2-ol | 2.5 ml | CC(C)O | C3H8O
solvent | propan-2-ol | 2 ml | CC(C)O | C3H8O
solvent | toluene | 95 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (+,−)-1-benzyl-3-hydroxymethyl-4-(4-fluorophenyl)-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC(C(=CC1)C1=CC=C(C=C1)F)CO | C19H20FNO
